US05883093
Step 1: cis-3-(1,1-dimethylethoxycarbonylamino)-4-methylpyrrolidine
A solution of 1.5 g(5.2 mmol) of cis-1-phenylmethyl-3-(1,1-dimethylethoxycarbonylamino)-4-methylpyrrolidine (cf. U.S. Pat. No. 4,753,953) in 50 mL methanol was treated with 200 mg of Pd(OH)2 /C followed by hydrogenation under 1 atmosphere of H2 for 3.5 h. The mixture was filtered through celite, washing the filter cake with methanol. The filtrate was concentrated in vacuo to afford a colorless oil, which was used directly in the next step. 1H NMR (CD3OD) δ 4.85, 4.03, 3.14, 3.05, 2.66, 2.45, 2.23, 1.46, 0.95.

reactant | cis-1-phenylmethyl-3-(1,1-dimethylethoxycarbonylamino)-4-methylpyrrolidine | 5.2 mmol, 1.5 g | C1(=CC=CC=C1)CN1C[C@H]([C@H](C1)C)NC(=O)OC(C)(C)C | C17H26N2O2
solvent | methanol | 50 mL | CO | CH4O
catalyst | Pd(OH)2 | 200 mg | [OH-].[OH-].[Pd+2]
product | cis-3-(1,1-dimethylethoxycarbonylamino)-4-methylpyrrolidine | CC(C)(OC(=O)N[C@@H]1CNC[C@@H]1C)C | C10H20N2O2
